US07569578B2
(R)-1-(1-(3,5-difluorobenzyl)-1H-imidazol-2-yl)-2-(2-(methoxymethyl)-7-methyl-2H-indazol-5-yl)ethyl 4-(2-oxo-1,2-dihydroquinolin-3-yl)piperidine-1-carboxylate
1-(1H-Imidazol-2-yl)-2-(2-(methoxymethyl)-7-methyl-2H-indazol-5-yl)ethyl 4-(2-oxo-1,2-dihydroquinolin-3-yl)piperidine-1-carboxylate (102 mg, 0.19 mmol), 3,5-difluorobenzyl bromide (27.0 μL, 0.21 mmol, 1.1 equiv), and potassium carbonate (54 mg, 3.0 equiv) were combined in dimethylformamide (2.0 mL). After stirring at room temperature for 16 h, the reaction mixture was removed in vacuo and the residue purified by column chromatography to afford 72.0 mg (57%). Mass spec.: 667.4 (MH)+.

reactant | 1-(1H-Imidazol-2-yl)-2-(2-(methoxymethyl)-7-methyl-2H-indazol-5-yl)ethyl 4-(2-oxo-1,2-dihydroquinolin-3-yl)piperidine-1-carboxylate | 0.19 mmol, 102 mg | O=C1NC2=CC=CC=C2C=C1C1CCN(CC1)C(=O)OC(CC1=CC2=CN(N=C2C(=C1)C)COC)C=1NC=CN1 | C30H32N6O4
reactant | 3,5-difluorobenzyl bromide | 0.21 mmol, 27.0 μL, 1.1 equiv | FC=1C=C(CBr)C=C(C1)F | C7H5BrF2
reactant | potassium carbonate | 54 mg, 3.0 equiv | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 2.0 mL | CN(C=O)C | C3H7NO
product | (R)-1-(1-(3,5-difluorobenzyl)-1H-imidazol-2-yl)-2-(2-(methoxymethyl)-7-methyl-2H-indazol-5-yl)ethyl 4-(2-oxo-1,2-dihydroquinolin-3-yl)piperidine-1-carboxylate | O=C1NC2=CC=CC=C2C=C1C1CCN(CC1)C(=O)O[C@H](CC1=CC2=CN(N=C2C(=C1)C)COC)C=1N(C=CN1)CC1=CC(=CC(=C1)F)F | C37H36F2N6O4
